US09289419B2
Synthesis of 1-(2-aminoethyl)pyrrolidin-3-ol
1M Solution of LAH in THF (4.38 mL, 4.38 mmol) was added to a solution of (S)-2-(3-hydroxypyrrolidin-1-yl)acetonitrile (Bio. org. Med. Chem. 15 (2007) 5369-538) (460 mg, 3.65 mmol) in THF (15 mL) at −78° C. and allowed the reaction mixture to stir at 25-35° C. for 10 minutes. The reaction mixture was refluxed for 3 h. The reaction mixture was quenched with saturated aqueous sodium sulphate solution at 0° C., heated to reflux, filtered the solid precipitate; filtrate collected was dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford 250 mg of the title compound.

reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (S)-2-(3-hydroxypyrrolidin-1-yl)acetonitrile | 3.65 mmol, 460 mg | O[C@@H]1CN(CC1)CC#N | C6H10N2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 4.38 mmol, 4.38 mL | C1CCOC1 | C4H8O
product | 1-(2-aminoethyl)pyrrolidin-3-ol | 250 mg | NCCN1CC(CC1)O | C6H14N2O
